US05182047
Preparation of 4,4'-dioctyloxy-3,3'-difluorobiphenyl
A mixture of 4'-octyloxy-3,3'-difluorobiphenol (0.1 mol, obtained by coupling 3-fluoro-4-octyloxyphenyl boronic acid with 4-benzyloxy-3-fluoro-brombenzene followed by hydrogenolytic cleavage of the benzylic ether), 1-bromooctane (0.12 mol), potassium carbonate (30 g) and butanone (125 ml) is heated under reflux and stirred for 20 hrs. After cooling the reaction mixture is filtered and the filtrate evaporated off, distillation under reduced pressure affords the required product, m.p. 84°.

reactant | 4'-octyloxy-3,3'-difluorobiphenol | C(CCCCCCC)OC=1C(=C(C(=CC1)O)C=1C(=CC=CC1F)O)F | C20H24F2O3
reactant | 3-fluoro-4-octyloxyphenyl boronic acid | FC=1C=C(C=CC1OCCCCCCCC)B(O)O | C14H22BFO3
reactant | 4-benzyloxy-3-fluoro-brombenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)F | C13H10BrFO
reactant | 1-bromooctane | 0.12 mol | BrCCCCCCCC | C8H17Br
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 125 ml | CC(CC)=O | C4H8O
product | 4,4'-dioctyloxy-3,3'-difluorobiphenyl | C(CCCCCCC)OC1=C(C=C(C=C1)C1=CC(=C(C=C1)OCCCCCCCC)F)F | C28H40F2O2
